US08791107B2
STEP A: tert-butyl 3-(5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)-6-methoxy-1H-indole-1-carboxylate
The title compound was prepared in a manner similar to EXAMPLE 1 using 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 50 mg, 0.221 mmol), tert-butyl 6-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-1-carboxylate (124 mg, 0.331 mmol) and PdCl2(dppf) (12.91 mg, 0.018 mmol) in dioxane (1.9 mL) and aqueous saturated NaHCO3 (0.4 mL).

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.221 mmol, 50 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | tert-butyl 6-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-1-carboxylate | 0.331 mmol, 124 mg | COC1=CC=C2C(=CN(C2=C1)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C20H28BNO5
solvent | dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.018 mmol, 12.91 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)-6-methoxy-1H-indole-1-carboxylate | N1=C(N=CC=2NCC3N(C12)CCOC3)C3=CN(C1=CC(=CC=C31)OC)C(=O)OC(C)(C)C | C23H27N5O4
